US06329392B1
1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(4-fluoro-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-(3,4-dichloro-phenyl)-pyrrolidine
Combine 1-(3,4,5-trimethoxy-benzoyl)-3-(3,4-dichloro-phenyl)-3-(2-methanesulfonyl-ethyl)-pyrrolidine (0.50 g, 0.94 mmol), diisopropylethylamine (0.24 g, 1.9 mmol), 4-[1-(4-fluoro-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidine (0.48 g, 1.41 mmol), and chlorobenzene (10 mL). Heat to reflux. After 14 hours, cool and partition the reaction mixture between ethyl acetate and water. Extract the organic layer with 5% sodium bicarbonate solution and a saturated sodium chloride solution. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 10% methanol/ethyl acetate to give the title compound.

reactant | 1-(3,4,5-trimethoxy-benzoyl)-3-(3,4-dichloro-phenyl)-3-(2-methanesulfonyl-ethyl)-pyrrolidine | 0.94 mmol, 0.50 g | COC=1C=C(C(=O)N2CC(CC2)(CCS(=O)(=O)C)C2=CC(=C(C=C2)Cl)Cl)C=C(C1OC)OC | C23H27Cl2NO6S
reactant | diisopropylethylamine | 1.9 mmol, 0.24 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-[1-(4-fluoro-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidine | 1.41 mmol, 0.48 g | FC1=CC=C(CN2C(=NC3=C2C=CC=C3)C(=O)C3CCNCC3)C=C1 | C20H20FN3O
reactant | chlorobenzene | 10 mL | ClC1=CC=CC=C1 | C6H5Cl
solvent | methanol ethyl acetate | CO.C(C)(=O)OCC
product | 1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(4-fluoro-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-(3,4-dichloro-phenyl)-pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)Cl)Cl)CCN2CCC(CC2)C(=O)C2=NC3=C(N2CC2=CC=C(C=C2)F)C=CC=C3)C=C(C1OC)OC | C42H43Cl2FN4O5
